US05635501
4-Methoxybenzyl (6R,7R)-3-(4,5-dihydrofuran-2-yl)-7-phenylacetamido-ceph-3-em-4-carboxylate
4-Methoxybenzyl (6R,7R)-7-phenylacetamido-3-trifluoromethane-sulphonyloxyceph-3-em-4-carboxylate (0.10 g), bis(dibenzylideneacetone)-palladium (0) (0.003 g) and tri-n-butyl(4,5-dihydrofuran-2-yl)stannane (0.122 g, 0.108 ml ) in dry N-methylpyrrolidinone (0.5 ml) were stirred together for 0.25 h. T.l.c. analysis (50% ethyl acetate--hexane) showed no starting material. The mixture was diluted with ethyl acetate, washed three times with water and with brine and then dried. The solution was concentrated to a small volume and then added dropwise to vigorously stirred hexane (50 ml). The suspension was centrifuged and the clear hexane decanted. The precipitate was washed with hexane and dried in vacuo, to give the title compound as a buff coloured, amorphous solid (0.08 g, 93%); δH (250 MHz, CDCl3) 2.60 (2H, dt, J 9.8, 2.9 Hz), 3.38 and 3.47 (2H, ABq, J 18.1 Hz), 3.60 and 3.96 (2H, ABq, J 16.2 Hz), 3.80 (3H, s), 4.07 (1H, dt, J 18.6, 9.8 Hz), 4.21 (1H, dt, J 17.9, 8.5 Hz), 4.94 (1H, d, J 4.9 Hz), 5.02 (1H, t, 2.9 Hz), 5.17 and 5.23 (2H, ABq, J 12.0 Hz), 5.82 (1H, dd, J 9.1, 4.8 Hz), 6.01 (1H, d, J9.1 Hz), 6.88 (2H, d, J 8.7 Hz) and 7.25-7.41 (7H, m).

reactant | 4-Methoxybenzyl (6R,7R)-7-phenylacetamido-3-trifluoromethane-sulphonyloxyceph-3-em-4-carboxylate | 0.10 g | C1(=CC=CC=C1)CC(=O)N[C@H]1[C@@H]2N(C(=C(CS2)OS(=O)(=O)C(F)(F)F)C(=O)OCC2=CC=C(C=C2)OC)C1=O | C24H21F3N2O8S2
reactant | tri-n-butyl(4,5-dihydrofuran-2-yl)stannane | 0.108 ml, 0.122 g | C(CCC)[Sn](C=1OCCC1)(CCCC)CCCC
reactant | hexane | CCCCCC | C6H14
solvent | N-methylpyrrolidinone | 0.5 ml | CN1C(CCC1)=O | C5H9NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | bis(dibenzylideneacetone)-palladium (0) | 0.003 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd]
product | 4-Methoxybenzyl (6R,7R)-3-(4,5-dihydrofuran-2-yl)-7-phenylacetamido-ceph-3-em-4-carboxylate | O1C(=CCC1)C=1CS[C@H]2N(C1C(=O)OCC1=CC=C(C=C1)OC)C([C@H]2NC(CC2=CC=CC=C2)=O)=O | C27H26N2O6S
